********************************
* Copyright:                   *
* Vishay Intertechnology, Inc. *
********************************
*20-Aug-2018
*ECN S18-0850, Rev. A
*File Name: SiSA40DN_PS.txt and SiSA40DN_PS.lib
*This document is intended as a SPICE modeling guideline and does not
*constitute a commercial product datasheet. Designers should refer to the
*appropriate datasheet of the same number for guaranteed specification
*limits.
.SUBCKT SiSA40DN D G S 
M1 3 GX S S NMOS W= 7242500u L= 0.30u 
M2 S GX S D PMOS W= 7242500u L= 0.07u 
R1 D 3 9.502e-04 TC=2.704e-03,1.074e-05
CGS GX S 9.952e-10 
CGD GX D 1.391e-12 
RG G GY 0.85 
RTCV 100 S 1e6 TC=1.027e-04,-0.330e-05
ETCV GX GY 100 200 1 
ITCV S 100 1u 
VTCV 200 S 1 
DBD S D DBD 7242500u 
**************************************************  
.MODEL NMOS NMOS ( LEVEL = 3 TOX = 3e-8 
+ RS = 0 KP = 2.6706e-05 NSUB = 1.314e+17 
+ KAPPA = 2.088e-01 NFS = 2.056e+11 
+ LD = 0 IS = 0 TPG = 1    )
**************************************************  
.MODEL PMOS PMOS ( LEVEL = 3 TOX = 3e-8 
+NSUB = 4.303e+16 IS = 0 TPG = -1    )
************************************************** 
.MODEL DBD D ( 
+FC = 0.1 TT = 4.778e-08 T_measured = 25 BV = 21
+RS = 6.889e-03 N = 9.714e-01 IS = 1.000e-13 
+EG = 1.188e+00 XTI = 9.480e-01 TRS1 = 3.533e-04
+CJO = 5.392e-10 VJ = 1.439e+00 M = 7.943e-01 ) 
.ENDS 
