****************************************************************************
*
* WARNING : please consider following remarks before usage
*
* 1) All models are a tradeoff between accuracy and complexity (ie. simulation
*    time).
*
* 2) Macromodels are not a substitute to breadboarding, they rather confirm the
*    validity of a design approach and help to select surrounding component values.
*
* 3) A macromodel emulates the NOMINAL performance of a TYPICAL device within
*    SPECIFIED OPERATING CONDITIONS (ie. temperature, supply voltage, etc.).
*    Thus the macromodel is often not as exhaustive as the datasheet, its goal
*    is to illustrate the main parameters of the product.
*
* 4) Data issued from macromodels used outside of its specified conditions
*    (Vcc, Temperature, etc) or even worse: outside of the device operating
*    conditions (Vcc, Vicm, etc) are not reliable in any way.
*
****************************************************************************
****
***  TSV73X Spice macromodel subckt 
***
***   October 2013
****                      
************ CONNECTIONS: 
****                  NON-INVERTING INPUT
****                    |  INVERTING INPUT
****                    |   |     POSITIVE POWER SUPPLY
****                    |   |      |      NEGATIVE POWER SUPPLY
****                    |   |      |       |     OUTPUT  
****                    |   |      |       |      |     
****                    |   |      |       |      |  
.SUBCKT TSV731   VP  VM  VCCP VCCN  VS
    LOUT VZOUT 0 {LOUT}
    FIOUT 0 VZOUT VREADIO 1.0
    M_NMOS2 VO_DIFF_MINUS VM VEE_N VCCN_ENHANCED MOS_N L={L} W={W}
    M_NMOS1 VO_DIFF_PLUS NET229 VEE_N VCCN_ENHANCED MOS_N L={L} W={W}  
    IEE_N VEE_N VCCN_ENHANCED DC {IEE}
    VREADI_R1 VB NET367 DC 0
    VVLIM_LOW_VB NET227 NET228 DC -770m
    VOS NET229 VP DC 0
    VPROT_IN_P_VCCP NET231 NET264 DC {V_DPROT}
    V_ENHANCE_VCCN VCCN_ENHANCED VCCN DC {VCCN_ENHANCE}
    VREADIO NET0303 VS DC 0
    VVLIM_HIGH_VB NET252 NET238 DC -770m
    V_ENHANCE_VCCP VCCP_ENHANCED VCCP DC {VCCP_ENHANCE}
    V_OUTVLIM_LOW NET241 NET242 DC {VD_COMPENSAZIONE}
    VPROT_IN_M_VCCN NET243 NET425 DC {V_DPROT}
    V_OUTVLIM_HIGH NET270 NET246 DC {VD_COMPENSAZIONE}
    VPROT_IN_P_VCCN NET247 NET248 DC {V_DPROT}
    VPROT_IN_M_VCCP NET411 NET254 DC {V_DPROT}
    DVLIM_HIGH_VB VB NET252 DIODE_VLIM
    DPROT_IN_M_VCCP VM NET254 DIODE_VLIM
    DVLIM_LOW_VB NET228 VB DIODE_VLIM
    DPROT_IN_M_VCCN NET243 VM DIODE_VLIM
    DILIM_SINK VB_3_SINK VB_3 DIODE_ILIM
    D_OUTVLIM_LOW NET242 VB_3 DIODE_NOVd
    DPROT_IN_P_VCCP NET229 NET264 DIODE_VLIM
    DILIM_SOURCE VB_3 VB_3_SOURCE DIODE_ILIM
    DPROT_IN_P_VCCN NET247 NET229 DIODE_VLIM
    D_OUTVLIM_HIGH VB_3 NET270 DIODE_NOVd
    CZOUT_IOUT_COEFF VZOUT_IOUT_COEFF 0 1n
    COUT2 VZOUT 0 {COUT2}
    CIN_CM_VM VM VREF {CIN_CM_VM}
    CIN_CM_VP VP VREF {CIN_CM_VP}
    CIN_DIFF VM VP {CIN_DIFF}
    C_RO2_1 VB_2 VREF 10p
    COUT NET404 0 {COUT}
    CDIFF_PARASITIC VO_DIFF_PLUS VO_DIFF_MINUS 70p
CD1 0 VO_DIFF_MINUS 1p
CD2 VO_DIFF_PLUS 0  1p  
    CCOMP VB VB_2 {CCOMP}
    EZOUT_VCC_COEFF VZOUT_VCC_COEFF 0 POLY(1) VCCP VCCN 1.2658088235294107-0.04458333333333293 -0.0017156862745098572
    EZOUT_IOUT_COEFF NET295 0 VALUE={IF( I(VreadIo)>=0 , (Zout_Iout_coeff_MIN + (1.0 -Zout_Iout_coeff_MIN)*exp(-abs(I(VreadIo)/Iout_dc_tau__source)) ) , (Zout_Iout_coeff_MIN + (1.0-Zout_Iout_coeff_MIN)*exp(-abs(I(VreadIo)/Iout_dc_tau__sink)) ) )}
    EZOUT VB_3 NET0303 VALUE={V(VZout)*V(VZout_Iout_coeff)*V(VZout_Vcc_coeff)}
    E_ICCSAT_HIGH ICC_OUT_HIGH 0 POLY(1) VCCP VCCN 0
    E_RO1_VOL RO1_VOL 0 POLY(1) VCCP VCCN 110.9242647058825-49.73692810457526 10.200844226579546 -0.7284858387799591
    E_ICCSAT_LOW ICC_OUT_LOW 0 POLY(1) VCCP VCCN -2.36360294117647E-5 1.3020833333333336E-5 6.127450980392101E-8
    E_READIO V_IO_VAL 0 VALUE={I(VreadIo)}
    EILIM_SINK VB_3_SINK VDEP_SINK VB_3 0 1.0
    E_RO1_VOH RO1_VOH 0 POLY(1) VCCP VCCN 146.64927604629733-57.06821115221597 10.08811372501539 -0.6184765828040271
    EMEAS_VB_VREF VB_VREF 0 VB VREF 1.0
    EMEAS_VOUT_DIFF VOUT_DIFF 0 VO_DIFF_PLUS VO_DIFF_MINUS 1.0
    E_VDEP_SOURCE_2 VAL_VDEP_SOURCE_FILTERED 0 VALUE={IF(V(val_vdep_source)>=0, 0, V(val_vdep_source))}
    E_VDEP_SOURCE_1 VAL_VDEP_SOURCE 0 VALUE={ ( -90.4080882352941+69.0625*V(Vccp,Vccn) + 0.18382352941175562*PWR(V(Vccp,Vccn),2) )-5000*I(VreadIo)}
    EVLIM_HIGH_VOUT NET246 0 VALUE={V(VCCP) - V(Ro1_Voh)*I(VreadIo)}
    EVLIM_LOW_VOUT NET241 0 VALUE={V(VCCN) - V(Ro1_Vol)*I(VreadIo)}
    E_VDEP_SOURCE_3 VDEP_SOURCE 0 VALUE={IF( V(Vccp,Vccn)<VCC_MIN , 0 ,V(val_vdep_source_filtered))}
    EVLIM_HIGH_VB NET238 0 VCCP 0 1.0
    E_VDEP_SINK_1 VAL_VDEP_SINK 0 VALUE={ ( 128.88235294117635-110.83333333333334*V(Vccp,Vccn) + 3.431372549019611*PWR(V(Vccp,Vccn),2)) -5000*I(VreadIo)}
    E_VDEP_SINK_2 VAL_VDEP_SINK_FILTERED 0 VALUE={IF(V(val_vdep_sink)<=0 , 0 , V(val_vdep_sink))}
    E_R1 NET367 VREF VALUE={I(VreadI_R1)*( R1_sink+(R1_source-R1_sink)*1/(1+exp(-alpha_switch*(V(v_Io_val)-Io_val_switch) ))) }
    EVLIM_LOW_VB NET227 0 VCCN 0 1.0
    E2_REF NET427 0 VCCN 0 1.0
    E_VREF VREF 0 NET421 0 1.0
    E_VDEP_SINK_3 VDEP_SINK 0 VALUE={IF( V(Vccp,Vccn)<VCC_MIN , 0 ,V(val_vdep_sink_filtered))}
    E1_REF NET387 0 VCCP 0 1.0
    EILIM_SOURCE VB_3_SOURCE VDEP_SOURCE VB_3 0 1.0
    E_SR_VCC_MODULATION VOUT_DIFF__SR_VCC 0 VALUE={V(Vout_diff)*(0.9340073529411762 + 0.006458333333333389*V(Vccp,Vccn) +0.0013480392156862708*PWR(V(Vccp,Vccn),2) )}
    RZOUT_IOUT_COEFF VZOUT_IOUT_COEFF NET295 50
    RIN_CM_VP VREF VP {RIN_CM_VP}
    RIN_DIFF VP VM {RIN_DIFF}
    ROUT NET404 VZOUT {ROUT}
    R_ICCSAT_LOW ICC_OUT_LOW 0 1K
    RO2_2 VB_3 VB_2 {RO2_2}
    RPROT_IN_P_VCCP NET231 VCCP 100
    RPROT_IN_M_VCCP VCCP NET411 100
    RO2_1 VB_2 VREF {RO2_1}
    RD1 VCCP_ENHANCED VO_DIFF_PLUS {RD}
    RD2 VCCP_ENHANCED VO_DIFF_MINUS {RD}
    RIN_CM_VM VREF VM {RIN_CM_VM}
    R1_REF NET387 NET421 1Meg
    R_ICCSAT_HIGH ICC_OUT_HIGH 0 1K
    RPROT_IN_M_VCCN VCCN NET425 15K
    R2_REF NET421 NET427 1Meg
    RPROT_IN_P_VCCN NET248 VCCN 15K
    G_ICCSAT_OUTLOW VCCP VCCN VALUE={IF(I(V_OUTVLIM_LOW)>1u ,V(Icc_out_low) , 0)}
    G_I_VB VB_2 VREF VB_VREF 0 {GB}
    G_I_IO VB_2 VREF VALUE={V(VB_Vref)*GB*( 5*( 1 -exp(-abs(V(v_Io_val))/3m )) )  }
    G_IOUT_SOURCED VCCP 0 VALUE={IF(I(VreadIo)>0, I(VreadIo),0)}
    GM1 VREF VB VOUT_DIFF__SR_VCC 0 {1/RD}
    G_IIB_VM VREF VM VALUE={1p}
    G_ICC VCCP VCCN POLY(1) VCCP VCCN 5.38544117647059E-5 7.916666666666461E-7 -2.450980392156583E-8
    G_ICCSAT_OUTHIGH VCCP VCCN VALUE={IF(I(V_OUTVLIM_HIGH)>1u ,V(Icc_out_high), 0)}
    G_IIB_VP VREF VP VALUE={1p}
    G_IOUT_SINKED VCCN 0 VALUE={IF(I(VreadIo)>0, 0, I(VreadIo))}
*
* MODELS/SUBCKTS and PARAMS used by TSV731 subckt:

.PARAM VCC_MIN=1.0
.PARAM RINCM=5.4959E+10
.PARAM CINCM=3.9650E-12 
.PARAM RIN_CM_VM={2*RINCM}
.PARAM RIN_CM_VP={2*RINCM}
.PARAM CIN_CM_VM={CINCM/2}
.PARAM CIN_CM_VP={CINCM/2}
.PARAM RINDIFF=7.7132E+10
.PARAM CINDIFF=2.7050E-12
.PARAM RIN_DIFF={(2*RINCM*RINDIFF)/(2*RINCM - RINDIFF)}  
.PARAM CIN_DIFF={CINDIFF - CINCM/2}
.PARAM RD=1k
.PARAM VCCP_enhance=150m
.PARAM VCCN_enhance=-1100m 
.PARAM GB=130.3m 
.PARAM Ro = 7.1766E+05
.PARAM A0_source = 2.7e+11
.PARAM A0_sink = 7e+7
.PARAM alpha_switch = 1e6
.PARAM Io_val_switch = -7u
.PARAM Ccomp=8p
.PARAM IEE=2.8u
.PARAM W=1.4617u
.PARAM L=1u
.PARAM gm_mos=4.5275E-05
.PARAM Lout  = 450u
.PARAM Rout  = 460
.PARAM Cout  = 15n
.PARAM Cout2 = 2p
.PARAM Zout_Iout_coeff_MIN= 0.04
.PARAM Iout_dc_tau__source = 0.03m 
.PARAM Iout_dc_tau__sink   = 0.03m 
.PARAM Ro2_2=1e-3 
.PARAM Ro2_1={ Ro - Ro2_2} 
.PARAM R1_sink={A0_sink/(gm_mos*GB*Ro2_1)}
.PARAM R1_source={A0_source/(gm_mos*GB*Ro2_1)}
.PARAM V_DPROT=150m
.PARAM Vd_compensazione=-788.4u

.MODEL MOS_N  NMOS LEVEL=1  VTO=+0.65  KP=500E-6 
.MODEL DIODE_NOVd D LEVEL=1  IS=10E-15 N=0.001
.MODEL DIODE_VLIM D LEVEL=1  IS=0.8E-15   cjo=1f
.MODEL DIODE_ILIM D LEVEL=1  IS=0.8E-15   cjo=1f
*
*******************************************************************************

.ENDS TSV731
*** End of subcircuit definition.


