****************************************************************************
****
***  TSZ181 Eldo macromodel subckt 
***
***   January 2017 
****                      
************ CONNECTIONS: 
****         NON-INVERTING INPUT
****             |  INVERTING INPUT
****             |   |   POSITIVE POWER SUPPLY
****             |   |    |    NEGATIVE POWER SUPPLY
****             |   |    |    |    OUTPUT  
****             |   |    |    |    |     
****             |   |    |    |    |  
.SUBCKT TSZ18X   VP  VM  VCCP VCCN  VS
    LOUT VZOUT 0 {LOUT}
    FIOUT 0 VZOUT VREADIO 1.0
    M_NMOS2 VO_DIFF_MINUS VM VEE_N VCCN_ENHANCED MOS_N L={L} W={W}
    M_NMOS1 VO_DIFF_PLUS NET0283 VEE_N VCCN_ENHANCED MOS_N L={L} W={W}
    IEE_N VEE_N VCCN_ENHANCED DC {IEE}
    VD_DN1 NET0247 0 DC 100.0m
    V57 NET0242 NET0244 DC {VD_COMPENSAZIONE}
    VREADI_R1 VB NET386 DC 0
    V56 NET0280 NET0254 DC {VD_COMPENSAZIONE}
    VOS NET0283 NET0319 DC 0
    VPROT_IN_P_VCCP NET246 NET279 DC {V_DPROT}
    V_ENHANCE_VCCN VCCN_ENHANCED VCCN DC {VCCN_ENHANCE}
    VREADIO NET0346 VS DC 0
    VD_DN2 NET0249 0 DC 100.0m
    V_ENHANCE_VCCP VCCP_ENHANCED VCCP DC {VCCP_ENHANCE}
    V_OUTVLIM_LOW NET256 NET257 DC {VD_COMPENSAZIONE}
    VPROT_IN_M_VCCN NET258 NET448 DC {V_DPROT}
    V_OUTVLIM_HIGH NET285 NET261 DC {VD_COMPENSAZIONE}
    VPROT_IN_P_VCCN NET262 NET263 DC {V_DPROT}
    VPROT_IN_M_VCCP NET434 NET269 DC {V_DPROT}
    D29 NET0244 VB DIODE_NOVd
    D28 VB NET0280 DIODE_NOVd
    DN2 NET0249 VN_MINUS DN
    DN1 NET0247 VN_PLUS DN
    DPROT_IN_M_VCCP VM NET269 DIODE_VLIM
    DPROT_IN_M_VCCN NET258 VM DIODE_VLIM
    DILIM_SINK VB_3_SINK VB_3 DIODE_ILIM
    D_OUTVLIM_LOW NET257 VB_3 DIODE_NOVd
    DPROT_IN_P_VCCP NET0283 NET279 DIODE_VLIM
    DILIM_SOURCE VB_3 VB_3_SOURCE DIODE_ILIM
    DPROT_IN_P_VCCN NET262 NET0283 DIODE_VLIM
    D_OUTVLIM_HIGH VB_3 NET285 DIODE_NOVd
    CZOUT_IOUT_COEFF VZOUT_IOUT_COEFF 0 1n
    COUT2 VZOUT 0 {COUT2}
    CIN_CM_VM VM VREF {CIN_CM_VM}
    CIN_CM_VP VP VREF {CIN_CM_VP}
    CIN_DIFF VM VP {CIN_DIFF}
    C_RO2_1 VB_2 VREF 40p
    COUT NET427 0 {COUT}
    CDIFF_PARASITIC VO_DIFF_PLUS VO_DIFF_MINUS 9p
    CCOMP VB VB_2 {CCOMP}
    E60 NET0242 0 VALUE={V(Vref) - V(alpha_desat_time)*V(Vccp,Vccn) } 
    E62 NET0254 0 VALUE={V(Vref) + V(alpha_desat_time)*V(Vccp,Vccn) }
    EZOUT_VCC_COEFF VZOUT_VCC_COEFF 0 VALUE={1}
    EZOUT_IOUT_COEFF NET310 0 VALUE={IF( I(VreadIo)>=0 , (
+Zout_Iout_coeff_MIN + (1.0 -
+Zout_Iout_coeff_MIN)*exp(-abs(I(VreadIo)/Iout_dc_tau__source)) ) , (
+Zout_Iout_coeff_MIN + (1.0 -
+Zout_Iout_coeff_MIN)*exp(-abs(I(VreadIo)/Iout_dc_tau__sink)) ) )}
    EZOUT VB_3 NET0346
+VALUE={V(VZout)*V(VZout_Iout_coeff)*V(VZout_Vcc_coeff)}
    E_SR_VCC_MODULATION VOUT_DIFF__SR_VCC 0 VALUE={V(Vout_diff)*(
+0.54936974789916 + 0.17320473644003018*V(Vccp,Vccn) +
+(-0.016615737203972452)*V(Vccp,Vccn)*V(Vccp,Vccn) )}
    E_ICCSAT_HIGH ICC_OUT_HIGH 0 VALUE={0}
    E_RO1_VOL RO1_VOL 0 POLY(1) VCCP VCCN 206.94327731092375
+-77.55277565571632 13.207514410722826 -0.7749380744033024
    E_ICCSAT_LOW ICC_OUT_LOW 0 VALUE={0}
    E_READIO V_IO_VAL 0 VALUE={I(VreadIo)}
    E58 VB_2_VREF 0 VB_2 VREF 1.0
    EILIM_SINK VB_3_SINK VDEP_SINK VB_3 0 1.0
    EN NET0319 VP VN_PLUS VN_MINUS 1.0
    E_RO1_VOH RO1_VOH 0 POLY(1) VCCP VCCN 295.7100840336127
+-99.54583651642409 13.969720119452553 -0.5937912355024489
    EMEAS_VB_VREF VB_VREF 0 VB VREF 1.0
    EMEAS_VOUT_DIFF VOUT_DIFF 0 VO_DIFF_PLUS VO_DIFF_MINUS 1.0
    E_VDEP_SOURCE_2 VAL_VDEP_SOURCE_FILTERED 0
+VALUE={IF(V(val_vdep_source)>=0, 0, V(val_vdep_source))}
    E_VDEP_SOURCE_1 VAL_VDEP_SOURCE 0 VALUE={ ( -26.23529411764716 +
+13.435828877*V(Vccp,Vccn) + 3.342245989304806*PWR(V(Vccp,Vccn),2) )
+-5000*I(VreadIo)}
    EVLIM_HIGH_VOUT NET261 0 VALUE={V(VCCP) - V(Ro1_Voh)*I(VreadIo)}
    EVLIM_LOW_VOUT NET256 0 VALUE={V(VCCN) - V(Ro1_Vol)*I(VreadIo) +
+V(VOL_noRL) }
    E_VDEP_SOURCE_3 VDEP_SOURCE 0 VALUE={IF( V(Vccp,Vccn)<VCC_MIN , 0 ,
+V(val_vdep_source_filtered))}
    E64 ALPHA_DESAT_TIME 0 POLY(1) VCCP VCCN 0.5086557788944723
+-0.02675879396984925
    E_VDEP_SINK_2 VAL_VDEP_SINK_FILTERED 0
+VALUE={IF(V(val_vdep_sink)<=0 , 0 , V(val_vdep_sink))}
    E_R1 NET386 VREF VALUE={I(VreadI_R1)*( R1_sink
++(R1_source-R1_sink)*1/(1+exp(-alpha_switch*(V(v_Io_val)-Io_val_switch) )
+)) }
    E2_REF NET450 0 VCCN 0 1.0
    E_VREF VREF 0 NET444 0 1.0
    E_VOL_NORL VOL_NORL 0 VALUE={0}
    E_VDEP_SINK_3 VDEP_SINK 0 VALUE={IF( V(Vccp,Vccn)<VCC_MIN , 0 ,
+V(val_vdep_sink_filtered))}
    E1_REF NET410 0 VCCP 0 1.0
    E_VDEP_SINK_1 VAL_VDEP_SINK 0 VALUE={ ( 59.8067226890757
+-40.38388082505732*V(Vccp,Vccn) -0.0954927425515641*PWR(V(Vccp,Vccn),2) )
+-5000*I(VreadIo)}
    EILIM_SOURCE VB_3_SOURCE VDEP_SOURCE VB_3 0 1.0
    RN1 VN_PLUS 0 R_NOISE {RN}
    RZOUT_IOUT_COEFF VZOUT_IOUT_COEFF NET310 R_NO_NOISE 50 
    RIN_CM_VP VREF VP R_NO_NOISE {RIN_CM_VP} 
    RIN_DIFF VP VM R_NO_NOISE {RIN_DIFF} 
    ROUT NET427 VZOUT R_NO_NOISE {ROUT} 
    R_ICCSAT_LOW ICC_OUT_LOW 0 R_NO_NOISE 1K 
    RO2_2 VB_3 VB_2 R_NO_NOISE {RO2_2} 
    RPROT_IN_P_VCCP NET246 VCCP R_NO_NOISE 10 
    RPROT_IN_M_VCCP VCCP NET434 R_NO_NOISE 10 
    RO2_1 VB_2 VREF R_NO_NOISE {RO2_1} 
    RN2 VN_MINUS 0 R_NOISE {RN}
    RD1 VCCP_ENHANCED VO_DIFF_PLUS R_NO_NOISE {RD} 
    RD2 VCCP_ENHANCED VO_DIFF_MINUS R_NO_NOISE {RD} 
    RIN_CM_VM VREF VM R_NO_NOISE {RIN_CM_VM} 
    R1_REF NET410 NET444 R_NO_NOISE 1Meg 
    R_ICCSAT_HIGH ICC_OUT_HIGH 0 R_NO_NOISE 1K 
    RPROT_IN_M_VCCN VCCN NET448 R_NO_NOISE 10
    R2_REF NET444 NET450 R_NO_NOISE 1Meg 
    RPROT_IN_P_VCCN NET263 VCCN R_NO_NOISE 10 
    G_ICCSAT_OUTLOW VCCP VCCN VALUE={IF(I(V_OUTVLIM_LOW)>1u ,
+V(Icc_out_low) , 0)}
    G_I_VB VB_2 VREF VB_VREF 0 {GB}
    G_I_IO VB_2 VREF VALUE={V(VB_Vref)*GB*( 5*( 1 -
+exp(-abs(V(v_Io_val))/0.2m )) )  }
    G_IOUT_SOURCED VCCP 0 VALUE={IF(I(VreadIo)>0, I(VreadIo),0)}
    GM1 VREF VB VOUT_DIFF__SR_VCC 0 {1/RD}
    G_IIB_VM VREF VM VALUE={30p}
    G_ICC VCCP VCCN POLY(1) VCCP VCCN 4.660809280233866E-4
+2.0218817882884096E-4 -7.35020094994511E-5 8.908227322549483E-6
    G_ICCSAT_OUTHIGH VCCP VCCN VALUE={IF(I(V_OUTVLIM_HIGH)>1u ,
+V(Icc_out_high), 0)}
    G_IIB_VP VREF VP VALUE={30p}
    G_IOUT_SINKED VCCN 0 VALUE={IF(I(VreadIo)>0, 0, I(VreadIo))}

    
*******************************************************************************
*
* MODELS/SUBCKTS and PARAMS used by TSZ181 subckt:
*
.PARAM VCC_MIN=1.5
.PARAM RINCM=4.9961E+10
.PARAM CINCM=2.7768E-12
.PARAM RIN_CM_VM={2*RINCM}
.PARAM RIN_CM_VP={2*RINCM}
.PARAM CIN_CM_VM={CINCM/2}
.PARAM CIN_CM_VP={CINCM/2}
.PARAM RIN_DIFF=1T
.PARAM CINDIFF=2.4130E-12
.PARAM CIN_DIFF={CINDIFF - CINCM/2}
.PARAM RD=1k
.PARAM VCCP_enhance=150m
.PARAM VCCN_enhance=-1100m
.PARAM GB=9.817m
.PARAM Ro = 14125
.PARAM A0_source = 0.4e+7
.PARAM A0_sink = 0.4e+7
.PARAM alpha_switch = 1e6
.PARAM Io_val_switch = -7u
.PARAM Ccomp=10p
.PARAM IEE=47u
.PARAM W=1.57u
.PARAM L=1u
.PARAM gm_mos=1.9212E-04
.PARAM Lout  = 0.5u
.PARAM Rout  = 650
.PARAM Cout  = 0.01n
.PARAM Cout2 = 0.4p
.PARAM Zout_Iout_coeff_MIN= 1.0
.PARAM Iout_dc_tau__source = 3m
.PARAM Iout_dc_tau__sink   = 3m
.PARAM Ro2_2=1e-3
.PARAM Ro2_1={ Ro - Ro2_2}
.PARAM R1_sink={A0_sink/(gm_mos*GB*Ro2_1)}
.PARAM R1_source={A0_source/(gm_mos*GB*Ro2_1)}
.PARAM V_DPROT=150m
.PARAM Vd_compensazione=-788.4u
.PARAM RN=4.5e+04
.MODEL DN D AF=1 KF=0

.MODEL R_NO_NOISE RES T_ABS=-273
.MODEL R_NOISE    RES T_ABS=+27
.MODEL MOS_N  NMOS LEVEL=1  VTO=+0.65  KP=500E-6  T_ABS=+27
.MODEL DIODE_NOVd D LEVEL=1  IS=10E-15 N=0.001
.MODEL DIODE_VLIM D LEVEL=1  IS=0.8E-15
.MODEL DIODE_ILIM D LEVEL=1  IS=0.8E-15
*
*******************************************************************************
.ENDS TSZ18X
*** End of subcircuit definition.