*$
*//-----------------------------------------------------------------------// 
*//   Part No.    : HHXC250ARA330ME61G
*//   Date        : 2023/03/07
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2023 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------// 

.SUBCKT HHXC250ARA330ME61G_20deg-C 1 2

C1 4 2 1.86e-05
C2 5 2 9.68e-06
C3 6 2 3.55e-06
R1 3 4 2.07e-02
R2 4 5 1.49e-01
R3 5 6 2.10e+00
L1 1 3 2.10e-09

.ENDS
*$
