*$
*//-----------------------------------------------------------------------// 
*//   Part No.    : HHXC350ARA220ME61G
*//   Date        : 2023/03/07
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2023 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------// 

.SUBCKT HHXC350ARA220ME61G_20deg-C 1 2

C1 4 2 1.05e-05
C2 5 2 7.53e-06
C3 6 2 2.98e-06
R1 3 4 2.43e-02
R2 4 5 1.62e-01
R3 5 6 2.21e+00
L1 1 3 2.10e-09

.ENDS
*$
