*$
*//-----------------------------------------------------------------------// 
*//   Part No.    : HHXC250ARA560MF61G
*//   Date        : 2023/03/07
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2023 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------// 

.SUBCKT HHXC250ARA560MF61G_20deg-C 1 2

C1 4 2 3.74e-05
C2 5 2 1.30e-05
C3 6 2 4.06e-06
R1 3 4 1.69e-02
R2 4 5 1.56e-01
R3 5 6 4.03e+00
L1 1 3 2.60e-09

.ENDS
*$
